2186-02-12 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The patient underwent an EGD, however she began becoming agitated and
   desated so she had to be intubated so that the EGD could be finished.
   On EGD a firm area of ulceration which was thought to be a mass was
   visualized.  Given her elevated INR, no biopsy was taken.  There did
   not appear to be active bleeding.
   - She was left intubated overnight with plans to extubate her in the
   am.
   - Hct after admission decreased from 29.3 to 25 so she was transfused 1
   unit of PRBC.  Repeat INR was 1.2.
   This am the patient is awake and gestures that she wants the ETT
   removed.
   Allergies:
   Penicillins
   local reaction
   Ibuprofen
   Unknown;
   Aspirin
   Unknown;
   Estrogens
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2186-2-11**] 09:26 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2186-2-11**] 10:03 PM
   Fentanyl - [**2186-2-11**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-12**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 70 (66 - 156) bpm
   BP: 119/60(75) {94/47(57) - 169/96(114)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    207 mL
                                                                    914 mL
   PO:
           TF:
   IVF:
                                                                    207 mL
                                                                    539 mL
   Blood products:
   375 mL
   Total out:
                                                                    400 mL
                                                                    485 mL
   Urine:
                                                                    400 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 345 (345 - 345) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Thin, elderly female lying in bed in NAD with and
   ETT in place
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, mild scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no MRG
   Peripheral Vascular:  2+ DP b/l
   Respiratory / Chest: A few coarse upper airway sounds b/l, marked
   kyphosis
   Abdominal: + BS, soft NTND
   Extremities: No edema.
   Musculoskeletal: Muscle wasting
   Skin:  Warm, slightly Jaundiced, brusing present
   Neurologic: Alert, intubated, follows commands, moves all extremities
   to command.
   Labs / Radiology
   166 K/uL
   10.9 g/dL
   182 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   39 mg/dL
   101 mEq/L
   137 mEq/L
   30.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2186-2-12**]  12:44 AM
                             [**2186-2-12**]  12:49 AM
                             [**2186-2-12**]  05:51 AM
                             [**2186-2-12**]  06:16 AM
   WBC
   17.6
   Hct
   25.5
   32.0
   30.3
   Plt
   166
   Cr
   0.8
   Glucose
   182
   Other labs: PT / PTT / INR:14.2/23.8/1.2, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.5 mg/dL
   [1][**2186-2-11**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   EGD ([**2-11**]): Protruding Lesions: An ulcerated circumferential mass with
   stigmata of recent bleeding and of malignant appearance was found at
   the proximal second part of the duodenum just past the apex of the
   duodenal bulb. The mass was able to be traversed by the scope, but the
   lumen appeared to be narrowed by the lesion. 4 injections of [**1-27**] cc of
   Epinephrine 1/[**Numeric Identifier **] were applied for hemostasis with success.
   Impression: Blood in the duodenum
   Diverticulum in the second part of the duodenum
   Mass in the proximal second part of the duodenum (injection)
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   87F with afib on coumadin presents with upper GI bleeding and mass at
   the duodenum with dilated CBD
   # Respiratory support: Patient intubated for the EGD secondary and
   continued on the ventilator overnight to allow sedation time to wear
   off.  This am she is alert and indicating that she wants the tube
   removed.
   - Will extubate her this am.
   # Acute blood loss anema/Upper GI Source: Melena followed by
   hematemesis is c/w upper GI bleeding; unable to pass NGT for lavage at
   [**Location (un) 78**], but CT scan demonstrated a large mass vs fluid collection,
   density suspicious for blood, involving the duodenum with compression
   of the CBD with intrahepatic ductal dilatation; an underlying
   malignancy may have eroded into a vessel, bleeding both intraluminally
   and out of the lumen.  She underwent an EGD last night which showed a
   mass in the proximal second part of the duodenum which was concerning
   for malignancy.
   - Change pantoprazole 40mg IV gtt to po bid
   - Patient only has 1 18-guage PIV and she has very difficult access.
   Consider placing a PICC.
   - active type and has 3 units active crossmatch currently, transfuse to
   ~30
   - Appreciate GI and surgery consults, will f/u recs.
   - Will keep the patient NPO for now.
   - Hct is stable this am at 30.3. (Had gotten 3 units total since
   arriving at [**Location (un) 78**]).  Will check q8h Hct.
   - Will have discussion with the patient and the family about the
   findings on EGD and their wishes of how aggressive they want to be
   regarding diagnosis and treatment options before making further plans
   for diagnosis.
   # Mass vs Fluid Collection surrounding the duodenum with CBD,
   intra/extra hepatic duct dilatation: Likely cause of her elevated alk
   phos. The history of painless jaundice and chalk colored stools is esp
   concerning for cholangioCA.  Could also represent pancreatic cancer.
   ERCP vs EUS vs MRCP may be helpful in delineating origin, ie, if this
   indeed arises from the biliary tree or simply from neighboring
   structures.
   - check CEA and CA [**96**]-9.
   - Will discuss the findings of the EGD once the patient is extubated
   and alert with her and her family to decide on how aggressive they want
   to be with diagnosis.
   - CXR showed a possible nodule, will likely need to have a chest CT for
   workup for metastatic disease.
   # atrial fibrillation: Patient is on coumadin at home and by report had
   an INR > assay at [**Location (un) 78**] and received 2 units of FFP.  Here her INR
   has been <2, this am was 1.1.
   - hold anticoagulation [**2-27**] active bleeding
   - Restart diltiazem.
   # HTN: Will restart dilt as above.
   ICU Care
   Nutrition: NPO for now; speech and swallow consult once extubated.
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-2-11**] 09:00 PM
   Prophylaxis:
   DVT: pneumoboots (no SQH secondary to bleeding)
   Stress ulcer: PPI gtt
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full; she had been DNR on prior admissions, but given
   reversibility of current bleeding, will be Full for now, which can be
   revisited.
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);

2186-02-13 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - successfully extubated
   - patient told about mass and very high likelihood that it is cancer,
   also told about the lung nodules and that those may be metastases.
   Explained possibility of biopsy vs. palliative pancreatic/duodenal
   [** 80**] placement. Patient said she is leaning towards [** 80**] placement as
   she's 'had a good life' and would prefer to focus on comfort.  She
   asked about possibility of surgery or chemo - explained that the
   surgery would not be able to entirely remove the mass nor is she a good
   candidate given her age and that chemo is systemically toxic though
   could explore options if she and family are interested.
   - called daughter and relayed above information - she plans on coming
   in on Monday to discuss
   - social work consult placed
   - likely plan for CT Monday (not yet ordered) to further evaluate lung
   nodules
   - need to call ERCP Monday to set up for this week (more urgently if
   spikes)
   - hct stable 32--->30--->25.1, got 1u pRBC overnight, repeat hct this
   morning 29.8
   Allergies:
   Penicillins
   local reaction
   Ibuprofen
   Unknown;
   Aspirin
   Unknown;
   Estrogens
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2186-2-11**] 09:26 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-13**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 66 (52 - 77) bpm
   BP: 115/58(72) {76/34(44) - 125/78(84)} mmHg
   RR: 22 (15 - 25) insp/[**Year (4 digits) **]
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,270 mL
                                                                    375 mL
   PO:
           TF:
   IVF:
                                                                  1,645 mL
                                                                    250 mL
   Blood products:
                                                                    625 mL
                                                                    125 mL
   Total out:
                                                                  1,295 mL
                                                                    145 mL
   Urine:
                                                                  1,295 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 410) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 7.7 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, mild scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: regular rate
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: CTAB marked kyphosis
   Abdominal: Soft, Non-tender, Bowel sounds present, diffuse firm mass in
   LUQ
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: a/o to person, place, time and purpose
   Labs / Radiology
   164 K/uL
   10.8 g/dL
   85 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.2 mEq/L
   32 mg/dL
   105 mEq/L
   138 mEq/L
   29.8 %
   11.9 K/uL
        [image002.jpg]
   EGD [**2186-2-11**]:
   Esophagus:
   Normal esophagus.
   Stomach:
   Normal stomach.
   Duodenum:
   Contents:
   Melena and blood clots were seen in the 2nd portion of the duodenum.
   Protruding Lesions
   An ulcerated circumferential mass with stigmata of recent bleeding and
   of malignant appearance was found at the proximal second part of the
   duodenum just past the apex of the duodenal bulb. The mass was able to
   be traversed by the scope, but the lumen appeared to be narrowed by the
   lesion. 4 injections of [**1-27**] cc of Epinephrine 1/[**Numeric Identifier **] were applied for
   hemostasis with success.
   Excavated Lesions
   A single diverticulum with small opening was found in the second part
   of the duodenum. There was no active bleeding from the diverticulum.
   Impression:
   Blood in the duodenum
   Diverticulum in the second part of the duodenum
   Mass in the proximal second part of the duodenum (injection)
   Otherwise normal EGD to second part of the duodenum
                             [**2186-2-12**]  12:44 AM
                             [**2186-2-12**]  12:49 AM
                             [**2186-2-12**]  05:51 AM
                             [**2186-2-12**]  06:16 AM
                             [**2186-2-12**]  05:06 PM
                             [**2186-2-12**]  09:22 PM
                             [**2186-2-13**]  04:01 AM
   WBC
   17.6
   11.9
   Hct
   25.5
   32.0
   30.3
   29.3
   25.1
   29.8
   Plt
   166
   164
   Cr
   0.8
   0.8
   0.7
   Glucose
   182
   122
   85
   Other labs: PT / PTT / INR:12.9/23.2/1.1, ALT / AST:151/89, Alk Phos /
   T Bili:854/1.6, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   87F with afib on coumadin presents with upper GI bleeding and mass at
   the duodenum with dilated CBD.
   # Acute blood loss anema/Upper GI Source: Hct stable at 29.8 this
   morning after 1 unit pRBC overnight.  Source is mass surrounding
   dudodnum seen on EGD.   On admission had melena followed by hematemesis
   which is c/w upper GI bleeding; unable to pass NGT for lavage at
   [**Location (un) 78**], but CT scan demonstrated a large mass vs fluid collection,
   density suspicious for blood, involving the duodenum with compression
   of the CBD with intrahepatic ductal dilatation; an underlying
   malignancy may have eroded into a vessel, bleeding both intraluminally
   and out of the lumen.  She underwent an EGD last night which showed a
   mass in the proximal second part of the duodenum which was concerning
   for malignancy.
   - discussed findings with patient and daughter
 patient expressed that
   she is leaning towards palliative stenting, daughter to come in today
   to discuss with team
   - coninute pantoprazole 40mg IV gtt to po bid
   - check pm hct goal  >27
   - Appreciate GI and surgery consults, will f/u recs.
   - Hct is stable this am at 29.8, will recheck this afternoon, has
   gotten a total of 4 units pRBC
   - Will have discussion with the patient and the family about the
   findings on EGD and their wishes of how aggressive they want to be
   regarding diagnosis and treatment options before making further plans
   for diagnosis.
   - if plan is to [**Last Name (LF) 80**], [**First Name3 (LF) 116**] contact ERCP
   # Respiratory support: Extubated successful yyesterday morning. Patient
   was intubated for the EGD secondary and continued on the ventilator
   overnight to allow sedation time to wear off.
    # Mass vs Fluid Collection surrounding the duodenum with CBD,
   intra/extra hepatic duct dilatation: Likely cause of her elevated alk
   phos. The history of painless jaundice and chalk colored stools is esp
   concerning for cholangioCA.  Could also represent pancreatic cancer.
   ERCP vs EUS vs MRCP may be helpful in delineating origin, ie, if this
   indeed arises from the biliary tree or simply from neighboring
   structures.
   - CEA elevated at 18 (normal 0-4)
   - f/u CA [**96**]-9 level
   - goals of treatment meeting with family as above
   - a chest CT for workup for metastatic disease given lung nodules seen
   on CXR suspicious for mets
   - trend LFT
   #0Aatrial fibrillation: Patient is on coumadin at home and by report
   had an INR > assay at [**Location (un) 78**] and received 2 units of FFP.  Here her
   INR has been <2, this am was 1.1. Received one dose of dilt yesterday
   with asymptomatic hypotension and brady to 50
   - hold anticoagulation [**2-27**] active bleeding
   - continue to hold diltiazem for now
   # HTN: Hold dilt as above.
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  none indicated
   Lines:
   18 Gauge - [**2186-2-11**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: iv PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: transfer to floor after family discussion regarding plan
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 3505**] has extubated safely and is aware of current medical issues.
   She had a sense that a malignant diagnosis might be the problem given
   early satiety and weight loss. She denies abdominal pain or dyspnea.
   She is agreeable to palliative [**Known lastname 80**] placement if that will temporize
   her symptoms. She wishes to discuss this with her family too. She
   needed one unit of pRBC
s for hct of 25.1
   Exam notable for mild icterusTm 97 BP 116/54 HR 70 RR of 16 with sats
   of 96% on 2lpm . she has marked kyphosis and end inspiratory crackles
   at bothbases. Labs notable for WBC 11.9K, HCT of 29.8, K+ of 3.2 .
   Agree with plan to update family and then request ERCP consultation for
   palliative [**Known lastname 80**] placement. She will likely need intubation for this
   given difficulty with EGD. A chest CT scan will be performed to assess
   RUL nodules today. She will remain on IV PPI today and in the ICU till
   procedures completed. She remains a DNR by prior stated wishes.
   Remainder of plan as outlined above.
   Patient is stable with guarded prognosis
   Total time: 30 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**]  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2186-2-13**] 11:45 AM ------

2186-02-14 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting performed, pt would like stent placed for comfort
   - ERCP planned for [**2186-2-15**]
   - Discussed Code status with pt as she is listed as FULL CODE but
   DNR/DNI on prior notes. Pt is [**Name (NI) 1324**] only
   This am she denies pain, dizziness, N/V, or other complaints.
   Allergies:
   Penicillins
   local reaction
   Ibuprofen
   Unknown;
   Aspirin
   Unknown;
   Estrogens
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2186-2-11**] 09:26 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-13**] 07:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-14**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 58 (57 - 82) bpm
   BP: 119/55(70) {94/47(59) - 139/87(94)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,115 mL
                                                                    240 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    270 mL
   Blood products:
                                                                    125 mL
   Total out:
                                                                    700 mL
                                                                    175 mL
   Urine:
                                                                    700 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    415 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% on 2 L NC
   ABG: ///30/
   Physical Examination
   General Appearance: Elderly female lying in bed in NAD
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, mild scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no MRG
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: CTAB marked kyphosis
   Abdominal: + BS, slightly firm, nontender
   Extremities: no edema
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: alert and appropriate
   Labs / Radiology
   180 K/uL
   11.0 g/dL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   28 mg/dL
   97 mEq/L
   132 mEq/L
   31.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2186-2-12**]  12:44 AM
                             [**2186-2-12**]  12:49 AM
                             [**2186-2-12**]  05:51 AM
                             [**2186-2-12**]  06:16 AM
                             [**2186-2-12**]  05:06 PM
                             [**2186-2-12**]  09:22 PM
                             [**2186-2-13**]  04:01 AM
                             [**2186-2-13**]  04:55 PM
                             [**2186-2-14**]  04:20 AM
   WBC
   17.6
   11.9
   11.7
   Hct
   25.5
   32.0
   30.3
   29.3
   25.1
   29.8
   36.0
   31.8
   Plt
   166
   164
   180
   Cr
   0.8
   0.8
   0.7
   0.6
   Glucose
   182
   122
   85
   105
   Other labs: PT / PTT / INR:11.9/21.2/1.0, ALT / AST:151/89, Alk Phos /
   T Bili:854/1.6, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.4 mg/dL
   CT chest [**2-13**] -
   PRELIMINARY REPORT:
   1. RIGHT MIDDLE LOBE/LINGULAR AND BILATERAL LOWER LOBE BRONCHIECTASIS,
   WHICH
   [**Month (only) **] RELATE TO CHRONIC ASPIRATION/INFECTION.
   3. SCATTERED TREE-IN-[**Male First Name (un) 3520**] OPACITIES IN THE RIGHT UPPER AND LEFT UPPER
   LOBES IS
   COMPATIBLE WITH ONGOING INFECTIOUS OR INFLAMMTORY PROCESS. TB NOT
   EXCLUDED.
   3. NODULAR OPACITY IN THE RIGHT UPPER LOBE (4:33-53) AND RIGHT LOWER
   LOBE
   (4:101-111) WITH BRANCHING IN MORPHOLOGY IS MOST COMPATIBLE WITH MUCOUS
   IMPACTED BRONCHIOLES.
   4. SMALL BILATERAL PLEURAL EFFUSIONS.
   5. NON-SPECIFIC BILATERAL HILAR AND MEDIASTINAL LYMPHADENOPATHY, WHICH
   [**Month (only) **] BE
   RELATED TO ONGOING INFECTION/INFLAMMATORY PROCESS.
   6. EXTENSIVE ATHEROSCLOSIS WITH MULTIFOCAL AREAS OF ULCERATED PLAQUE.
   7. LIMITED VIEW OF THE ABDOMEN SHOW SEVERE BILIARY DILATATION, WHICH IS
   KNOWN.
   8. MULTIPLE COMPRESSION DEFORMITIES OF THE THORACIC VERTEBRAE.
   [1][**2186-2-14**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [2][**2186-2-11**]
   URINE
   URINE CULTURE-PRELIMINARY {GRAM NEGATIVE ROD(S)}
   INPATIENT
   Assessment and Plan
   87F with afib on coumadin presents with upper GI bleeding and mass at
   the duodenum with dilated CBD and a mass concerning for malignancy on
   EGD.
   # Acute blood loss anema/Upper GI Source: Hct stable at 31.8 this
   morning.  She has received a total of 4 units of pRBC during her
   admission (last transfused the night of [**2-12**]).  Source is mass
   surrounding dudodnum seen on EGD.   On admission had melena followed by
   hematemesis which is c/w upper GI bleeding; unable to pass NGT for
   lavage at [**Location (un) 78**], but CT scan demonstrated a large mass vs fluid
   collection, density suspicious for blood, involving the duodenum with
   compression of the CBD with intrahepatic ductal dilatation; an
   underlying malignancy may have eroded into a vessel, bleeding both
   intraluminally and out of the lumen.  She underwent an EGD which showed
   a mass in the proximal second part of the duodenum which was concerning
   for malignancy.
   - The findings were discussed with the patient and her family
 the
   patient expressed that she wants palliative stenting which is now
   planned for sometime in the next few days.
   - coninute pantoprazole 40 mg po bid
   - As her Hct has been stable over the past day, can check daily Hct.
   - Appreciate GI and surgery consults, will f/u recs.
    # Mass vs Fluid Collection surrounding the duodenum with CBD,
   intra/extra hepatic duct dilatation: Likely cause of her elevated alk
   phos. The history of painless jaundice and chalk colored stools is esp
   concerning for cholangioCA.  Could also represent pancreatic cancer.
   ERCP vs EUS vs MRCP may be helpful in delineating origin, ie, if this
   indeed arises from the biliary tree or simply from neighboring
   structures.  The prelim read on the chest CT did not show metastases.
   CEA elevated at 18 (normal 0-4).  The ERCP fellow evaluated her and
   felt she would not benefit from duodenal stenting as she wasn
   obstructed there, but that she would benefit from biliary stenting.
   - f/u CA [**96**]-9 level
   - as above palliative stenting via ERCP is planned for sometime in the
   next few days.
   - f/u final chest CT read
   - trend LFT
   # Positive UCx: The patient
s UCx returned with 10,000- 100,000 gram
   neg rods, however her UA showed only 0-2 WBC and had no leuks or
   nitrites.  Given the lack of evidence of infection on the UA, will not
   treat.
   - Resend UA/UCx.
   # Hyponatremia:  The patient
s Na decreased from 138 to 132 today.  She
   does not appear volume overloaded, so this is most likely SIADH vs
   slight volume overload.
   -  Will advance her diet, hold IVF and let her regulate her intake.  If
   she remains hyponatremic can check urine lytes and consider fluid
   restriction if they are consistent with SIADH.
   #Atrial fibrillation: Patient is on coumadin at home and by report had
   an INR > assay at [**Location (un) 78**] and received 2 units of FFP.  Here her INR
   has been <2, this am was 1.0. Received one dose of dilt yesterday with
   asymptomatic hypotension and brady to 50
   - hold anticoagulation [**2-27**] active bleeding
   - Continue her outpatient diltiazem.
   # HTN: Continue her outpatient Diltiazem 60 mg qid.
   ICU Care
   Nutrition: Full liquids, can advance as tolerated to a regular diet.
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-2-11**] 09:00 PM
   Prophylaxis:
   DVT: pneumoboots given recent bleed
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNI, but otherwise full code ; will rediscuss today and
   confirm
   Disposition: can be called out to the floor today
   ------ Protected Section ------
   Upon discussion of code status with Mrs. [**Known lastname 3505**], she has expressed the
   wish to be DNR/DNI, but will accept intubation for procedures.  Dr.
   [**Last Name (STitle) **] was informed of her decision and her code status was updated in
   POE.
   ------ Protected Section Addendum Entered By:[**Name (NI) 394**] [**Last Name (NamePattern1) 2718**], MD
   on:[**2186-2-14**] 10:48 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);

2186-02-14 09:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87F with afib on coumadin presents with upper GI bleeding and mass at
   the duodenum with dilated CBD.
   24 Hour Events:
   No complaints.
   Allergies:
   Penicillins
   local reaction
   Ibuprofen
   Unknown;
   Aspirin
   Unknown;
   Estrogens
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2186-2-11**] 09:26 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-13**] 07:23 PM
   Other medications:
   Diltiazem, Trazodone, Colace, Senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-14**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 58 (57 - 82) bpm
   BP: 119/55(70) {94/47(59) - 139/87(94)} mmHg
   RR: 24 (21 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,115 mL
                                                                    240 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    270 mL
   Blood products:
                                                                    125 mL
   Total out:
                                                                    700 mL
                                                                    275 mL
   Urine:
                                                                    700 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    415 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: profound kyphosis
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   180 K/uL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   28 mg/dL
   97 mEq/L
   132 mEq/L
   31.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2186-2-12**]  12:44 AM
                             [**2186-2-12**]  12:49 AM
                             [**2186-2-12**]  05:51 AM
                             [**2186-2-12**]  06:16 AM
                             [**2186-2-12**]  05:06 PM
                             [**2186-2-12**]  09:22 PM
                             [**2186-2-13**]  04:01 AM
                             [**2186-2-13**]  04:55 PM
                             [**2186-2-14**]  04:20 AM
   WBC
   17.6
   11.9
   11.7
   Hct
   25.5
   32.0
   30.3
   29.3
   25.1
   29.8
   36.0
   31.8
   Plt
   166
   164
   180
   Cr
   0.8
   0.8
   0.7
   0.6
   Glucose
   182
   122
   85
   105
   Other labs: PT / PTT / INR:11.9/21.2/1.0, ALT / AST:151/89, Alk Phos /
   T Bili:854/1.6, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.4 mg/dL
   Imaging: Chest CT- tree-in [**Male First Name (un) **] scattered, hilar LAD
   Microbiology: Urine cx neg to date
   Assessment and Plan
   UPPER GIB BLEED- underlying duodenal mass
   -GI and Surgery consulted
   -discussed findings with patient and daughter
 patient expressed that
   she is leaning towards palliative stenting
   -poss ERCP soon
   -cont PPI [**Hospital1 **]
   -serial Hct checks
   A FIB- anticoag reversed in the setting of GIB
   -rate-controlled on dilt
   -hold anticoagulation due to bleeding
   OLIGURIA- repeat fluid bolus today and assess
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-2-11**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :Transfer to floor
   Total time spent: 30 minutes